US07354932B2
To a solution of 6-hydroxynicotinic acid (0.049 g, 0.35 mmoles) in DMF (2.7 mL) was added EDC (0.083 g, 0.43 mmoles), HOBT (0.056 g, 0.41 mmoles) and N1-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-di amine (0.1 g, 0.29 mmoles) and the reaction stirred overnight at room temperature. Ethyl acetate (40 mL) and water (25 mL) were added and the organic layer was washed with brine (30 mL) and saturated aqueous NaHCO3 (30 mL). The aqueous layers were extracted with ethyl acetate (3×30 mL) and the combined organic extracts dried with Na2SO4 and concentrated. The crude product was purified by radial chromatography on silica gel (1 mm plate, 2% MeOH/1% NH4OH/CH2Cl2, then 10% MeOH/1% NH4OH/CH2Cl2) to give N-{4-[1H-benzolimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-butyl}-6-hydroxynicotinamide as an offwhite foam (30 mg, 16%).

reactant | 6-hydroxynicotinic acid | 0.35 mmoles, 0.049 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | EDC | 0.43 mmoles, 0.083 g
reactant | HOBT | 0.41 mmoles, 0.056 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N1-(1H-Benzimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-di amine | 0.29 mmoles, 0.1 g | N1C(=NC2=C1C=CC=C2)CN(CCCCN)C2CCCC=1C=CC=NC21 | C21H27N5
solvent | DMF | 2.7 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
solvent | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 6-hydroxynicotinamide | OC1=NC=C(C(=O)N)C=C1 | C6H6N2O2
